US09334267B2
7-Methyl-2-(methylthio)pyrido[2,3-d]pyrimidin-6-ol
Add 1-hydroxypropan-2-one (24.3 mL, 355 mmol) and 4-amino-2-(methylthio)pyrimidine-5-carbaldehyde (50 g, 296 mmol) to a solution of sodium hydroxide (23.64 g, 591 mmol) and water (200 mL). Add EtOH (600 mL) to the suspension and stir at RT overnight. Slowly add a solution of concentrated HCl (50 mL) in water (350 mL). Add 1:1 EtOH/H2O (100 mL) and collect the solids by filtration. Wash the solids with 1:1 EtOH/H2O (250 mL), ice cold EtOH (4×25 mL) and hexanes (2×250 mL). Dry in the vacuum oven at 30-35° C. to provide the title compound as a tan solid (34 g, 56% yield). MS (m/z): 208.1 (M+1).

reactant | 1-hydroxypropan-2-one | 355 mmol, 24.3 mL | OCC(C)=O | C3H6O2
reactant | 4-amino-2-(methylthio)pyrimidine-5-carbaldehyde | 296 mmol, 50 g | NC1=NC(=NC=C1C=O)SC | C6H7N3OS
reactant | sodium hydroxide | 591 mmol, 23.64 g | [OH-].[Na+]
reactant | HCl | 50 mL | Cl | ClH
solvent | water | 350 mL | O | H2O
solvent | water | 200 mL | O | H2O
solvent | EtOH H2O | 100 mL | CCO.O
solvent | EtOH | 600 mL | CCO | C2H6O
product | 7-Methyl-2-(methylthio)pyrido[2,3-d]pyrimidin-6-ol | 34 g, 56% yield | CC=1C(=CC2=C(N=C(N=C2)SC)N1)O | C9H9N3OS
